US07977481B2
5-(3-dimethylamino-acryloyl)thiophene-2-carboxylic acid (200 mg, 0.888 mmol), N-m-tolylguanidine (71.1 mg, 1.77 mmol) and NaOH (264 mg, 1.77 mmol) were dissolved in 2-methoxyethanol (2 mL) and heated at 100° C. for 48 hours. After cooling, the reaction was diluted with 10% Aqueous citric acid solution and the solids were collected by filtration. The solids were washed with water and Et2O and dried to afford 5-(2-m-tolylamino-pyrimidin-4-yl)thiophene-2-carboxylic acid (149 mg, 53.8%) as a yellow solid. MS: m/z 312 (M+H+).

reactant | 5-(3-dimethylamino-acryloyl)thiophene-2-carboxylic acid | 0.888 mmol, 200 mg | CN(C=CC(=O)C1=CC=C(S1)C(=O)O)C | C10H11NO3S
reactant | N-m-tolylguanidine | 1.77 mmol, 71.1 mg | C1(=CC(=CC=C1)NC(=N)N)C | C8H11N3
reactant | NaOH | 1.77 mmol, 264 mg | [OH-].[Na+]
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
solvent | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
product | 5-(2-m-tolylamino-pyrimidin-4-yl)thiophene-2-carboxylic acid | 149 mg, 53.8% | C1(=CC(=CC=C1)NC1=NC=CC(=N1)C1=CC=C(S1)C(=O)O)C | C16H13N3O2S
